US07615562B2
Step B: [4-(5-Piperazin-4-yl-thiophen-2-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
4-{5-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-thiophen-2-yl}-piperazine-1-carboxylic acid ethyl ester (120 mg, 0.25 mmol) in chloroform (5 ml) was treated with Me3SiI (0.34 ml, 2.5 mmol) at 60° C. for 4 hours. 6N-HCl in propanol (5 ml) was added and stirred for 30 minutes at room temperature. The reaction mixture was poured on 2N-NaOH and extracted 5 times with EtOAc. The combined organic phases were dried over sodium sulfate, filtered, and purified via chromatography on silicagel (TBME/MeOH/ammonia:95/4.5/0/5 to 80/18/2) to give the title compound as yellow crystals. Yield: 20 mg (20%).

reactant | 4-{5-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-thiophen-2-yl}-piperazine-1-carboxylic acid ethyl ester | 0.25 mmol, 120 mg | C(C)OC(=O)N1CCN(CC1)C=1SC(=CC1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C24H36N6O2S
reactant | Me3SiI | 2.5 mmol, 0.34 ml | [Si](C)(C)(C)I | C3H9ISi
reactant | HCl | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | propanol | 5 ml | C(CC)O | C3H8O
product | [4-(5-Piperazin-4-yl-thiophen-2-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | N1CCN(CC1)C1=CC=C(S1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C21H32N6S
